US08372986B2
(1-benzyl-1H-1,2,3-triazol-5-yl)diphenylmethanol (7a)
Benzyl azide (0.200 g, 1.50 mmol), 1,1-diphenyl-2-propyn-1-ol (0.344 g, 1.65 mmol), Cp*RuCl(PPh3)2 (12 mg, 0.015 mmol). Solvent, benzene; reaction temperature, 80° C.; reaction time, 4 hours; yield, 0.39 g (75%). The reaction was performed under air. EI-MS: m/z 342 [M+1].

reactant | Benzyl azide | 1.50 mmol, 0.200 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | 1,1-diphenyl-2-propyn-1-ol | 1.65 mmol, 0.344 g | C1(=CC=CC=C1)C(C#C)(O)C1=CC=CC=C1 | C15H12O
catalyst | Cp*RuCl(PPh3)2 | 0.015 mmol, 12 mg | C[C-]1C(=C(C(=C1C)C)C)C.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (1-benzyl-1H-1,2,3-triazol-5-yl)diphenylmethanol | C(C1=CC=CC=C1)N1N=NC=C1C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19N3O
